US06787558B2
d) (2-Methyl-4-pyrrolidin-1-yl-quinolin-7-yl)-methanol
(4-Chloro-2-methyl-quinolin-7-yl)-methanol (750 mg, 3.61 mmol) was refluxed in pyrrolidine (6.42 g, 90.3 mmol) for 16 h. Most of the pyrrolidine was then removed under reduced pressure, the oily residue was taken up in toluene, evaporated, and the solid obtained triturated in ethyl acetate, filtered and dried to afford the title compound (785 mg, 90%). Light brown solid, ISP-MS: m/e==243.3 ([M+H]+).

reactant | (4-Chloro-2-methyl-quinolin-7-yl)-methanol | 3.61 mmol, 750 mg | ClC1=CC(=NC2=CC(=CC=C12)CO)C | C11H10ClNO
reactant | pyrrolidine | 90.3 mmol, 6.42 g | N1CCCC1 | C4H9N
product | (2-Methyl-4-pyrrolidin-1-yl-quinolin-7-yl)-methanol | 785 mg, 90% | CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)CO | C15H18N2O
